US20010006969A1
2-Allylamino-4-heptylamino-6-nitroquinazoline hydrochloride
To 150 mg (0.46 mmol) of 2-chloro-4-heptylamino-6-nitroquinazoline was added 1.14 g (20.00 mmol) of allylamine, followed by stirring at room temperature overnight. To the reaction solution was water added, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 140 mg (yield: 88.6%) of a free compound base of the title compound.

reactant | 2-chloro-4-heptylamino-6-nitroquinazoline | 0.46 mmol, 150 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCCCCCCC)[N+](=O)[O-] | C15H19ClN4O2
reactant | allylamine | 20.00 mmol, 1.14 g | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-4-heptylamino-6-nitroquinazoline hydrochloride | Cl.C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCCCCCCC)[N+](=O)[O-] | InChI=1S/C18H25N5O2.ClH/c1-3-5-6-7-8-12-19-17-15-13-14(23(24)25)9-10-16(15)21-18(22-17)20-11-4-2;/h4,9-10,13H,2-3,5-8,11-12H2,1H3,(H2,19,20,21,22);1H
